US07842701B2
3-amino-9-hydroxy-7-methoxy-5-(4-methoxybenzyl)-2-(4-phenoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 3-amino-7,9-dimethoxy-5-(4-methoxybenzyl)-2-(4-phenoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (500 mg), magnesium bromide (168 mg) and pyridine (10 ml) was heated under reflux for 2 days, added water thereto after cooling. The precipitated solid was collected by filtration, washed with water, and purified with silica gel column chromatography to obtain the target compound (360 mg).

reactant | 3-amino-7,9-dimethoxy-5-(4-methoxybenzyl)-2-(4-phenoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 500 mg | NC=1N(N=C2C1C(N(C=1C=C(C=C(C21)OC)OC)CC2=CC=C(C=C2)OC)=O)C2=CC=C(C=C2)OC2=CC=CC=C2 | C32H28N4O5
reactant | magnesium bromide | 168 mg | [Br-].[Mg+2].[Br-]
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-amino-9-hydroxy-7-methoxy-5-(4-methoxybenzyl)-2-(4-phenoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 360 mg | NC=1N(N=C2C1C(N(C=1C=C(C=C(C21)O)OC)CC2=CC=C(C=C2)OC)=O)C2=CC=C(C=C2)OC2=CC=CC=C2 | C31H26N4O5
